US05071994
Synthesis of Compound (23), 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-2-nitrophenyl)-4-isoxazolin-3-one
After mixing 165 g (0.573) of 5-methyl-2-(4-trifluoromethyl-2-nitrophenyl)-4-isoxazolin-3-one prepared in the above step, 156.2 g of zinc chloride, 206.3 g of paraformaldehyde, and 5 ml of sulfuric acid, 400 ml of acetic acid was added to the mixture followed by stirring. The reaction system was saturated with hydrogen chloride gas at room temperature and the mixture was refluxed for 8 hours while blowing hydrogen chloride gas into the system. Thereafter, the reaction mixture was cooled and poured into ice-water and the product formed was extracted with ethyl acetate. Then, after removing colored components by a short column of silica gel, the product was recrystallized from a 4:1 mixture of n-hexane and ethyl acetate to provide 110 g of the desired product with a yield of 57%. The melting point thereof was 68° C. to 70° C.

reactant | 5-methyl-2-(4-trifluoromethyl-2-nitrophenyl)-4-isoxazolin-3-one | 165 g | CC1=CC(N(O1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C11H7F3N2O4
reactant | paraformaldehyde | 206.3 g | C=O | CH2O
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen chloride | Cl | ClH
reactant | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 156.2 g | [Cl-].[Zn+2].[Cl-]
product | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-2-nitrophenyl)-4-isoxazolin-3-one | 110 g, yield of 57% | ClCC=1C(N(OC1C)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C12H8ClF3N2O4
